US06642204B2
To a solution of the KSCN (4.60 g; 47.33 mmoL) in acetone (35 mL), at 0° C., was added dropwise benzoylchloride (5.0 mL; 43.03 mmoL). The milky solution was stirred in an ice bath for 1.5 h, then, cyclopropylamine (3.2 mL; 46.0 mmoL) was added dropwise. The reaction mixture was stirred for 1.5 h at 0° C., then, more cyclopropylamine (0.50 mL, 7.22 mmoL) was added and the reaction mixture stirred at R.T. for an additional 30 min. The reaction mixture was poured into ice/H2O (300 mL), stirred for 5 min. and the light yellow solid was filtered, washed several times with H2O and dried to provide N-benzyloxy-N′-cyclopropyl thiourea (6.62 g). This thiourea was suspended in a solution of 2N NaOH (50 mL) and heated at reflux for 15 min. The solution was cooled to R.T., saturated with solid NaCl and extracted with EtOAc (3×). The combined EtOAc extracts were washed with H2O (2×) and brine (1×), dried (MgSO4), filtered and evaporated to give the crude product as an off-white solid. The solid was triturated in hexane/EtOAc 5/5 to provide the N-cyclopropyl thiourea 8d as a white crystalline solid (2.5 g; 50% yield).

reactant | KSCN | 4.60 g | C(#N)[S-].[K+]
reactant | benzoylchloride | 5.0 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | cyclopropylamine | 3.2 mL | C1(CC1)N | C3H7N
reactant | cyclopropylamine | 0.50 mL | C1(CC1)N | C3H7N
solvent | acetone | 35 mL | CC(=O)C | C3H6O
product | N-benzyloxy-N′-cyclopropyl thiourea | 6.62 g | C(C1=CC=CC=C1)ONC(=S)NC1CC1 | C11H14N2OS
